US07411091B2
4-(2-Fluoro-benzyloxy)-3-chloro-benzaldehyde
0.5 M solution of 1-bromomethyl-2-fluoro-benzene (1.5 g, 8 mmol) in DMF was added dropwise to a suspension of 3-chloro-4-hydroxy-benzaldehyde (1.14 g, 7.3 mmol), K2CO3 (1.51 g, 11 mmol) and KI (120 mg, 0.73 mmol) in DMF (100 ml). The reaction mixture was stirred at 90° C. overnight. After cooling, the solid residue was filtered off and the solvent was evaporated under vacuum. The residue was dissolved in ethyl acetate and the organic layer washed twice with NaOH 1M, dried over Na2SO4 and evaporated to dryness. The residue was purified on silica gel, obtaining 1.91 g of the title compound, yield 100%.

reactant | 1-bromomethyl-2-fluoro-benzene | 8 mmol, 1.5 g | BrCC1=C(C=CC=C1)F | C7H6BrF
reactant | 3-chloro-4-hydroxy-benzaldehyde | 7.3 mmol, 1.14 g | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | K2CO3 | 11 mmol, 1.51 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-(2-Fluoro-benzyloxy)-3-chloro-benzaldehyde | 1.91 g, yield 100% | FC1=C(COC2=C(C=C(C=O)C=C2)Cl)C=CC=C1 | C14H10ClFO2
